US06881746B2
Step 3: 4-[2-Thiocarbamoyl-2-(4-trifluoromethoxyphenyl)ethyl]benzoic acid methyl ester:
A mixture of 4-[2-cyano-2-(4-trifluoromethoxyphenyl)ethyl]benzoic acid methyl ester (8.76 g, 25.08 mmol), water (4.7 mL) and diethyl thiophosphate (4.67 mL, 27.8 mmol) was stirred and heated to 80° C. for two hours. The mixture was cooled and aqueous sodium hydrogen carbonate (100 mL, 10%) and ethyl acetate (200 mL) were added. The organic phase was washed with brine. Drying (MgSO4) and concentration in vacuo afforded 7 g of the crude material, which was purified by column chromatography on silica gel eluting with a mixture of ethyl acetate:heptane 1:2, containing 2% ethanol. This afforded 2.6 g (27%.) of 4-[2-thiocarbamoyl-2-(4-trifluoromethoxy-phenyl)ethyl]benzoic acid methyl ester as a solid.

reactant | 4-[2-cyano-2-(4-trifluoromethoxyphenyl)ethyl]benzoic acid methyl ester | 25.08 mmol, 8.76 g | COC(C1=CC=C(C=C1)CC(C1=CC=C(C=C1)OC(F)(F)F)C#N)=O | C18H14F3NO3
reactant | water | 4.7 mL | O | H2O
reactant | diethyl thiophosphate | 27.8 mmol, 4.67 mL | P(=S)(OCC)(OCC)[O-]
reactant | sodium hydrogen carbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-[2-Thiocarbamoyl-2-(4-trifluoromethoxyphenyl)ethyl]benzoic acid methyl ester | 7 g | COC(C1=CC=C(C=C1)CC(C1=CC=C(C=C1)OC(F)(F)F)C(N)=S)=O | C18H16F3NO3S
